US05624937
2,6-Dichloroquinoline (15.2 moles, 3.0 g), 4-aminothiophenol (15.2 moles, 1.9 g), and DMAP (15.2 moles, 1.85 g) were stirred at room temperature for 3 days. The solvent was removed, diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated. The product was purified by HPLC over silica gel eluted with 25% ethyl acetate in hexane to yield 2-(4-aminophenylthio)-6-chloroquinoline 830 mg, 19%. Mass spec (FD) 286. Calculated for C15H11ClN2S: C, 62.82 H, 3.87; N, 9.77. Found: C, 63.09; H, 3.94; N, 9.61.

reactant | 2,6-Dichloroquinoline | 15.2 moles, 3.0 g | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 4-aminothiophenol | 15.2 moles, 1.9 g | NC1=CC=C(C=C1)S | C6H7NS
catalyst | DMAP | 15.2 moles, 1.85 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(4-aminophenylthio)-6-chloroquinoline | 830 mg, 19% | NC1=CC=C(C=C1)SC1=NC2=CC=C(C=C2C=C1)Cl | C15H11ClN2S
